* gf180-pll :: harness-selftest :: harness self-verification smoke test
*
* Not a design claim for any block -- proves sim/harness (#2) produces a
* conformant sim/README.md evidence record end to end: real PDK resolution,
* real corner grid, real ngspice devices, real raw .measure extraction.
*
* Devices: nfet_03v3 / pfet_03v3 (MOS corner axis, diode-connected drive
* current) and ppolyf_u (resistor corner axis, RC step response). No
* MIM/MOS-cap device -- kept to one passive family so the smoke test stays
* small; devchar-passives (#4 -> #10) exercises the cap axes.
*
* All three measurements are raw .measure statements (see testbench/tb.json
* 'raw_measures'), not post-analysis `let` reads: this deck runs a single
* .tran analysis, and ngspice's own .measure engine (avg/from-to,
* trig/targ) is what correctly reduces a transient waveform to a scalar --
* a bare `let` expression on a transient vector prints the whole waveform,
* not one number. This mirrors sim/devchar-delay's proven approach.
*
* Expects from the harness-generated header:
*   .lib <MOS corner section> .lib <res corner section> (+ moscap_*/mimcap_*,
*     unused by this deck but always included by the harness)
*   .temp <temp_c>
*   .param vdd_val=<supply volts>

.param l_min=0.28u
.param w1=2u
.param rw=1u
.param rl=10u
* Contacted-diffusion extension for as/ad/ps/pd (0.44 um, single-contact-row
* 3.3 V device in this PDK -- same convention as sim/devchar-delay).
.param sab=0.44u

* ---- NMOS drive current, diode-connected at Vgs=Vds=vdd_val --------------
vdn dn 0 dc 'vdd_val'
xmdn dn dn 0 0 nfet_03v3 w=w1 l=l_min nf=1
+ as='w1*sab' ad='w1*sab' ps='2*sab+w1' pd='2*sab+w1'

* ---- PMOS drive current, diode-connected at Vsd=Vsg=vdd_val --------------
vddd vddd 0 dc 'vdd_val'
vgp gp 0 dc 0
vdp dp 0 dc 0
xmdp dp gp vddd vddd pfet_03v3 w=w1 l=l_min nf=1
+ as='w1*sab' ad='w1*sab' ps='2*sab+w1' pd='2*sab+w1'

* ---- ppolyf_u resistor RC step response, res_* corner axis ---------------
* Step at 200 ns (well after the MOS currents above have settled), rise/fall
* 1 ps, held long enough for the RC step to fully settle inside the 1 us run.
vstep rin 0 pulse(0 'vdd_val' 200n 1p 1p 800n 2u)
vam rin n_r 0
xres n_r n_out 0 ppolyf_u r_width=rw r_length=rl
crc n_out 0 1p
